US06063782
2,3-Dimethyl-5-(3-phenylpropionyl)-1-(2-propenyl)pyrrole
The title compound was prepared as a yellow oil in 86.6% yield in a similar procedure to that described in Referential Example 97 by using 2,3-dimethyl-5-(3-phenylpropionyl)pyrrole and 3-bromomethyl-1-propene.

reactant | 2,3-dimethyl-5-(3-phenylpropionyl)pyrrole | CC=1NC(=CC1C)C(CCC1=CC=CC=C1)=O | C15H17NO
reactant | 3-bromomethyl-1-propene | BrCCC=C | C4H7Br
product | 2,3-Dimethyl-5-(3-phenylpropionyl)-1-(2-propenyl)pyrrole | 86.6% yield | CC=1N(C(=CC1C)C(CCC1=CC=CC=C1)=O)CC=C | C18H21NO
